US06492403B1
4-[4-(3-Hydroxyphenyl)(1,3-thiazol-2-yl)]-5-methylthiothiophene-2-carboxamidine (2 g, 5.8 mmol), prepared by treating methyl 4-[4-(3-hydroxyphenyl)(1,3-thiazol-2-yl)]-5-methylthiothiophene-2-carboxylate in a manner similar to that for EXAMPLE 1, was dissolved in anhydrous DMF (10 mL). To this solution di-tert-butyl dicarbonate (1.38 g, 6.3 mmol) and DIEA (2 mL, 11.5 mmol) was added, and the mixture was stirred at room temperature for 18 h. DMF was removed under vacuum and the residue was purified by silica gel column chromatography to give 1.8 g (70%) of (tert-butoxy)-N-({4-[4-(3-hydroxyphenyl)(1,3-thiazol-2-yl)]-5-methylthio(2-thienyl)}iminomethyl)carboxamide as an oil. 1H-NMR (DMSO-d6; 300 MHz) δ1.58 (s, 9H), 2.81 (s, 3H), 6.79-6.83 (m, 1H), 7.28 (t, J=8.0 Hz, 1H), 7.49-7.52 (m, 2H), 8.09 (s, 1H), 8.71 (s, 1H).

reactant | 4-[4-(3-Hydroxyphenyl)(1,3-thiazol-2-yl)]-5-methylthiothiophene-2-carboxamidine | 5.8 mmol, 2 g | OC=1C=C(C=CC1)C=1N=C(SC1)C=1C=C(SC1SC)C(=N)N | C15H13N3OS3
reactant | methyl 4-[4-(3-hydroxyphenyl)(1,3-thiazol-2-yl)]-5-methylthiothiophene-2-carboxylate | OC=1C=C(C=CC1)C=1N=C(SC1)C=1C=C(SC1C)C(=S)OC | C16H13NO2S3
reactant | di-tert-butyl dicarbonate | 6.3 mmol, 1.38 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | DIEA | 11.5 mmol, 2 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (tert-butoxy)-N-({4-[4-(3-hydroxyphenyl)(1,3-thiazol-2-yl)]-5-methylthio(2-thienyl)}iminomethyl)carboxamide | 1.8 g, 70% | C(C)(C)(C)OC(=O)NC=NC=1SC(=C(C1)C=1SC=C(N1)C1=CC(=CC=C1)O)SC | C20H21N3O3S3
